US07087601B2
A suspension of 4-(bromomethyl)-3-chlorobenzoic acid (4.0 g, 16 mmol) in DMF (120 mL) and H2O (40 mL) was treated with NaCN (2.4 g, 49 mmol) and heated to 80° C. for 2 h. The mixture was cooled to rt and acidified with 1N HCl. The aqueous mixture was extracted with CH2Cl2 (3×25 mL). The combined organic layers were concentrated under reduced pressure and dissolved in MTBE. The organic mixture was washed with H2O and brine (3×25 mL), dried over MgSO4, filtered and concentrated to afford 3-chloro-4-(cyanomethyl)benzoyl chloride.

reactant | 4-(bromomethyl)-3-chlorobenzoic acid | 16 mmol, 4.0 g | BrCC1=C(C=C(C(=O)O)C=C1)Cl | C8H6BrClO2
reactant | NaCN | 49 mmol, 2.4 g | [C-]#N.[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
solvent | H2O | 40 mL | O | H2O
product | 3-chloro-4-(cyanomethyl)benzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1CC#N | C9H5Cl2NO
